US06388088B1
A mixture of lithium chloride (8.48 g, 200 mmol, predried at 130° C. under high vacuum for 3 h) and copper cyanide (8.96 g, 100 mmol) in dry tetrahydrofuran (100 mL) was stirred at 25° C. under argon for 10 min to obtain a clear solution. The reaction mixture was then cooled to −70° C. and then slowly treated with a 2.0M solution of cyclopentylmagnesium chloride in diethyl ether (55 mL, 110 mmol). After the addition, the reaction mixture was allowed to warm to −30° C. where it was stirred for 5 min. The resulting reaction mixture was again cooled back to −70° C. and then slowly treated with methyl propiolate (7.99 g, 95 mmol). The reaction mixture was stirred overnight at −60° C. to −50° C. The reaction mixture was then slowly treated with a solution of iodine (34.3 g, 135 mmol) in dry tetrahydrofuran (30 mL), with the temperature kept at −70° C. to −60° C. After addition of the iodine solution, the cooling bath was removed, and the reaction mixture was allowed to warm to 25° C. where it was stirred for 2 h. The reaction mixture was then poured into a solution consisting of a saturated aqueous ammonium chloride solution (200 mL) and ammonium hydroxide (50 mL), and the organic compound was extracted into diethyl ether (3×100 mL). The combined organic extracts were successively washed with a saturated aqueous sodium thiosulfate solution (1×300 mL) and a saturated aqueous sodium chloride solution (1×300 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 20/1 hexanes/diethyl ether) afforded (E)-3-cyclopentyl-2-iodo-acrylic acid methyl ester (25.8 g, 97%) as a yellow oil: EI-HRMS m/e calcd for C9H13IO2 (M+) 279.9960, found 279.9961.

reactant | lithium chloride | 200 mmol, 8.48 g | [Cl-].[Li+]
reactant | copper cyanide | 100 mmol, 8.96 g | [Cu](C#N)C#N
reactant | cyclopentylmagnesium chloride | C1(CCCC1)[Mg]Cl
reactant | diethyl ether | 110 mmol, 55 mL | C(C)OCC | C4H10O
reactant | methyl propiolate | 95 mmol, 7.99 g | C(C#C)(=O)OC | C4H4O2
reactant | iodine | 135 mmol, 34.3 g | II | I2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (E)-3-cyclopentyl-2-iodo-acrylic acid methyl ester | 25.8 g, 97% | COC(/C(=C\C1CCCC1)/I)=O | C9H13IO2
